US20010014691A1
Ethyl(3-(3-pyridyloxy)propyl)amine
The 3-chloro-1-(3-pyridyloxy)propane (1.00 g, 5.84 mmol) was dissolved in methanol (50 mL) and added to a 2.0 M solution of ethylamine in tetrahydrofuran (5 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (25 mL) was added to the residue. The pH of the solution was adjusted to 6, and impurities were extracted with ether (3× 15 mL). The aqueous layer was basified to pH 10 with 10% NaOH solution and extracted with chloroform (4×15 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 400 mg (38.1%) of an oil.

reactant | 3-chloro-1-(3-pyridyloxy)propane | 5.84 mmol, 1.00 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | 50 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Ethyl(3-(3-pyridyloxy)propyl)amine | 400 mg, 38.1% | C(C)NCCCOC=1C=NC=CC1 | C10H16N2O
